US07666879B2
A. 2-Amino-N,N-dimethyl-isonicotinamide
To LDA (7.3 mL, 13 mmol, 1.8M in ether/heptane) at 0° C., add dropwise dimethylamine (13 mL, 26 mmol, 2M in THF) under nitrogen. Stir for 30 minutes and add 2-amino-4-pyridine carboxylic acid methyl ester (2 g, 13 mmol, in 3 mL of anhydrous THF and 2 mL of anhydrous ether). Seal and heat at 85° C. overnight. Cool the mixture to room temperature and quench with water. Dilute with EtOAc and isolate the top organic layer. Extract the aqueous layer further with saturated sodium bicarbonate and ether, then DCM. Pool all the organic layers, dry (MgSO4) and concentrate. Purify by strong cation exchange (SCX) column to obtain the crude product and use in the next step without further purification. LCMS (ES), m/z 166 (M+1).

reactant | LDA | 13 mmol, 1.8M, 7.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | dimethylamine | 26 mmol, 2M, 13 mL | CNC | C2H7N
reactant | 2-amino-4-pyridine carboxylic acid methyl ester | 13 mmol, 3 mL, 2 g | COC(=O)C1=CC(=NC=C1)N | C7H8N2O2
product | 2-Amino-N,N-dimethyl-isonicotinamide | NC=1C=C(C(=O)N(C)C)C=CN1 | C8H11N3O
